US07504411B2
Synthesis of 2-(2-(4-methoxyphenyl)-piperazine-4-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one dihydrochloride (No. XA393)
4N Hydrogen chloride in ethyl acetate (5 ml) was added to the solution of 2-(2-(4-methoxyphenyl)-piperazine-4-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one (594 mg, 1.6 mmol) in dichloromethane (5 ml) and stirred for 1 hr. Wash with ethyl acetate after removal of the solvent and dryness gave the title compound (683 mg, 96%).

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | 2-(2-(4-methoxyphenyl)-piperazine-4-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one | 1.6 mmol, 594 mg | COC1=CC=C(C=C1)C1NCCN(C1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | C21H23N5O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(2-(4-methoxyphenyl)-piperazine-4-yl)-3-methyl-6-(4-pyridyl)pyrimidin-4-one dihydrochloride | 683 mg, 96% | Cl.Cl.COC1=CC=C(C=C1)C1NCCN(C1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1 | InChI=1S/C21H23N5O2.2ClH/c1-25-20(27)13-18(16-7-9-22-10-8-16)24-21(25)26-12-11-23-19(14-26)15-3-5-17(28-2)6-4-15;;/h3-10,13,19,23H,11-12,14H2,1-2H3;2*1H
